US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (1.94 g) and [(3,4-dibenzyloxyphenyl)methyl](4-isopropylphenyl)amine (2.5 g) as starting materials, 5-benzyloxy-N-[(3,4-dibenzyloxyphenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (2.64 g) was obtained. By the reaction and treatment in the same manner as in Example 17 using this compound, N-[(3,4-dihydroxyphenyl)methyl]-5-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.35 g) was obtained.

reactant | 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 1.94 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)O | C18H18O3
reactant | [(3,4-dibenzyloxyphenyl)methyl](4-isopropylphenyl)amine | 2.5 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)CNC1=CC=C(C=C1)C(C)C | C30H31NO2
product | 5-benzyloxy-N-[(3,4-dibenzyloxyphenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 2.64 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C48H47NO4
